US07875639B2
tert-butyl-(2-Imino-4,5-dimethyl-thiazol-3-yl)acetate hydrobromide
Bromoacetic acid tert-butyl ester (1.4 mL, 9.4 mmol) and 4,5-dimethyl-2-aminothiazole (1.0 g, 7.8 mmol) were heated at 85° C. for 14 hours. The mixture was cooled to ambient temperature and the resulting solid was triturated with ethyl acetate to provide the title compound.

reactant | Bromoacetic acid tert-butyl ester | 9.4 mmol, 1.4 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | 4,5-dimethyl-2-aminothiazole | 7.8 mmol, 1.0 g | CC=1N=C(SC1C)N | C5H8N2S
product | tert-butyl-(2-Imino-4,5-dimethyl-thiazol-3-yl)acetate hydrobromide | Br.C(C)(C)(C)OC(CN1C(SC(=C1C)C)=N)=O | InChI=1S/C11H18N2O2S.BrH/c1-7-8(2)16-10(12)13(7)6-9(14)15-11(3,4)5;/h12H,6H2,1-5H3;1H
